US07279600B2
2-Chloro-4′-methoxy-1,1′-biphenyl-4-carbaldehyde
The title compound was prepared by reacting trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester (5 g, 17.4 mmol) with 4-methoxyphenylboronic acid (3.44 g, 22.6 mmol) according to Method B to yield 3.83 g (89%) of white solid: mp 85-87° C.; 1H NMR (DMSO-d6): δ 3.82 (3H, s), 7.07 (2H, d, J=8.83 Hz), 7.46 (2H, d, J=8.45 Hz), 7.63 (1H, d, J=7.87 Hz), 7.92 (1H, dd, J=7.87 Hz, J=1.56 Hz), 8.07 (1H, d, J=1.49 Hz); 13C NMR (DMSO-d6): δ 55.14, 113.72, 127.80, 129.72, 130.42, 130.82, 132.15, 132.21, 136.11, 144.90, 159.33, 191.73; IR 1692 cm−1; MS (EI) m/z 246/248 M+.

reactant | trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester | 17.4 mmol, 5 g | ClC1=C(C=CC(=C1)C=O)OS(=O)(=O)C(F)(F)F | C8H4ClF3O4S
reactant | 4-methoxyphenylboronic acid | 22.6 mmol, 3.44 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 2-Chloro-4′-methoxy-1,1′-biphenyl-4-carbaldehyde | ClC1=C(C=CC(=C1)C=O)C1=CC=C(C=C1)OC | C14H11ClO2
